US05070089
i) 3,4,5-Trimethoxybenzyl chloride
In 40 ml of benzene was dissolved 10 g of 3,4,5-trimethoxybenzyl alcohol. To the resulting solution was dropwise added under chilling with ice 10 ml of benzene solution containing 7.6 g of thionyl chloride. After the addition was complete, the mixture was stirred at room temperature for 15 min. The reaction solution was poured into a chilled aqueous potassium carbonate, and a separated benzene portion was collected. The benzene portion was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and placed under reduced pressure to distill off the solvent. The desired compound was obtained as a yellow solid (yield: 11.0 g).

reactant | 3,4,5-trimethoxybenzyl alcohol | 10 g | COC=1C=C(CO)C=C(C1OC)OC | C10H14O4
reactant | thionyl chloride | 7.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 3,4,5-Trimethoxybenzyl chloride | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
